US07429565B2
5-Ethyl-6-(4-hydroxy-3-methyl-but-2-enyl)-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one
4-[6-Ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enal (77.6 mg, 0.207 mmol) was dissolved in MeOH (4 mL). A solution of CeCl3 (51.1 mg, 0.207 mmol) in MeOH/water (9/1, 0.66 mL) was added and the solution was cooled to 0° C. A solution of lithium borohydride in THF (2M, 0.105 mL) was added dropwise. After 15 minutes, the reaction was quenched with 1N HCl (0.5 mL). The MeOH was removed in vacuo and the crude material was partitioned between DCM and water. The aqueous layer was extracted with DCM and the combined organic layers were washed with sodium bicarbonate solution and dried over sodium sulfate. Filtration and evaporation of solvents yielded a crude oil, which was purified by silica gel chromatography to provide 57.2 mg (73%) of the desired product. 1H NMR (300 MHz, CDCl3): δ=0.04 (s, 9H), 1.15 (t, J=7.8 Hz, 3H), 1.26 (m, 2H), 1.86 (s, 3H), 2.19 (s, 3H), 2.72 (q, J=7.8 Hz, 2H), 3.52 (d, J=6.3 Hz, 2H), 3.99 (s, 2H), 4.34 (m, 2H), 5.14 (s, 2H), 5.32 (m, 1H) ppm.

reactant | 4-[6-Ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-2-methyl-but-2-enal | 0.207 mmol, 77.6 mg | C(C)C1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=C(C=O)C | C21H30O4Si
reactant | lithium borohydride | [BH4-].[Li+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH water | 0.66 mL | CO.O
solvent | THF | 2M, 0.105 mL | C1CCOC1 | C4H8O
product | 5-Ethyl-6-(4-hydroxy-3-methyl-but-2-enyl)-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | 57.2 mg, 73% | C(C)C=1C(=C2COC(C2=C(C1CC=C(CO)C)OCC[Si](C)(C)C)=O)C | C21H32O4Si
